US08476297B2
(R)-4-(1-(4-(Trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxamido)benzoic acid
A mixture of (R)-ethyl 4-(1-(4-(trifluoromethyl)-phenyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxamido)benzoate (0.210 g, 0.4 mmol) and NaOH (0.4 mL, 2 mmol) in EtOH (5 mL) was stirred at RT in 24 h. The mixture was concentrated, taken up in H2O and neutralized with 10% HCl. The white solid was collected by filtration and dried. MS (ESI, positive ion) m/z: 441 (M+1).

reactant | (R)-ethyl 4-(1-(4-(trifluoromethyl)-phenyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxamido)benzoate | 0.4 mmol, 0.210 g | FC(C1=CC=C(C=C1)[C@H]1N(CCC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)OCC)C=C1)(F)F | C26H23F3N2O3
reactant | NaOH | 2 mmol, 0.4 mL | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | (R)-4-(1-(4-(Trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline-2-carboxamido)benzoic acid | FC(C1=CC=C(C=C1)[C@H]1N(CCC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)(F)F | C24H19F3N2O3
